* Schematics Netlist *



M_M1         $N_0003 $N_0001 $N_0002 $N_0002 IRF9140
M_M2         $N_0002 $N_0001 $N_0001 $N_0001 IRF9140
V_V1         $N_0002 0 10V
V_V2         $N_0004 0 0V
M_M3         $N_0003 $N_0004 0 0 IRF140
R_R2         $N_0001 0  644v  
