* Schematics Netlist *



Q_Q1         $N_0002 $N_0001 $N_0003 Q2N3904
R_R1         $N_0001 $N_0004  50k  
V_VCC         $N_0004 0 10V
R_RC         $N_0002 $N_0004  3.3k  
R_R5         0 $N_0003  2.2k  
R_R2         0 $N_0001  22k  
