* Schematics Netlist *



Q_Q1         $N_0002 $N_0001 $N_0003 Q2N3904
V_VIN         $N_0004 0 DC 0V AC 1mV 
R_R1         $N_0001 $N_0005  57.3k  
R_RC         $N_0002 $N_0005  3..3k  
C_C1         $N_0002 $N_0006  47u  
C_C3         $N_0007 $N_0001  47u  
C_C2         0 $N_0003  47u  
R_R2         0 $N_0001  22k  
R_RL         0 $N_0006  3.3k  
V_VCC         $N_0005 0 10V
R_RE         0 $N_0003  2.2k  
R_R3         $N_0004 $N_0007  150  
