* Schematics Netlist *



Q_Q1         $N_0002 $N_0001 $N_0003 Q2N3904
Q_Q2         $N_0005 $N_0004 $N_0006 Q2N3904
V_Vin         $N_0007 0 DC 0V AC 1mV 
R_R1         $N_0007 $N_0008  150  
V_VCC         $N_0009 0 10V
R_R2         $N_0010 $N_0009  57.3k  
R_R3         0 $N_0010  22k  
R_R5         0 $N_0003  2.2k  
R_R4         $N_0002 $N_0009  3.3k  
R_R8         $N_0005 $N_0009  3.3k  
C_C5         0 $N_0006  47uF  
R_R10         $N_0008 0  25k  
R_R11         0 $N_0011  3.3k  
C_C1         $N_0008 $N_0001  47uF  
C_C2         $N_0002 $N_0004  47uF  
C_C3         0 $N_0003  47uF  
R_R6         $N_0004 $N_0009  57.3k  
R_R7         0 $N_0004  22k  
R_R9         0 $N_0006  2.2k  
C_C4         $N_0005 $N_0011  47uF  
