* Schematics Netlist *



M_M2         $N_0002 $N_0001 0 0 IRF140
M_M1         $N_0002 $N_0001 $N_0003 $N_0003 IRF9140
V_Vdd         $N_0003 0 10Vdc
V_Vgg         $N_0001 0 0V
R_RL         0 $N_0002  100k  
