* Schematics Netlist *



C_C2         $N_0001 $N_0002  1n  
C_C1         $N_0003 $N_0001  1n  
C_C3         $N_0002 $N_0004  1n  
R_R1         0 $N_0001  1k  
R_R2         0 $N_0002  1k  
R_R3         0 $N_0004  1k  
V_V2         $N_0005 $N_0004 0V
R_R4         $N_0004 $N_0006  1k  
X_U1         $N_0006 0 $N_0007 $N_0005 $N_0003 uA741
R_R5         $N_0003 $N_0006  1k  
V_V1         0 $N_0007 0V
